US03953506
Preparation of 4-(1,2,3,4-Tetrahydro-1-naphthyl)semicarbazide hydrochloride ##SPC24##
8.13 Grams (0.031 mole) of methyl 3-[(1,2,3,4-tetrahydro-1-naphthyl)carbamoyl]carbazate is added in portions to 31 ml. of stirred 4N potassium hydroxide maintained at 75° C. to 80° C. The mixture is stirred at this temperature for 30 minutes, then cooled in an ice bath and acidified with 12N hydrochloric acid. The precipitate is filtered, washed with cold water and then 2-propanol. The dried product weighs 1.88 grams and has melting point 189° C. to 191° C. The filtrate is evaporated under reduced pressure and the residue boiled in ethanol and filtered hot. The filtrate is evaporated at reduced pressure. The residue is crystallized from ethanol to give an additional 1.30 grams of product, melting point 191° C. to 193° C. Recrystallization from water gives the analytical sample, melting point 196° C. to 198° C. Analysis calculated for C11H16N3OCl: C, 54.66; H, 6.67; N, 17.30. Found: C, 54.57; H, 6.69; N, 17.46.

reactant | methyl 3-[(1,2,3,4-tetrahydro-1-naphthyl)carbamoyl]carbazate | 0.031 mole | C1(CCCC2=CC=CC=C12)NC(=O)NNC(=O)OC | C13H17N3O3
reactant | potassium hydroxide | 4N | [OH-].[K+]
reactant | hydrochloric acid | 12N | Cl | ClH
product | 4-(1,2,3,4-Tetrahydro-1-naphthyl)semicarbazide hydrochloride | 1.30 grams | Cl.C1(CCCC2=CC=CC=C12)NC(NN)=O | InChI=1S/C11H15N3O.ClH/c12-14-11(15)13-10-7-3-5-8-4-1-2-6-9(8)10;/h1-2,4,6,10H,3,5,7,12H2,(H2,13,14,15);1H
